US07728025B2
(Step 1) Production of 2-(2-fluoro-5-nitro-phenyl)-pyridine
0.55 g of Tetrakis-triphenylphosphine palladium was added to a 1,4-dioxane (20 ml) solution of 2.1 g of 3-bromo-4-fluoro-nitrobenzene and 2.3 g of 2-trimethyltin-pyridine, and the reaction liquid was heated overnight under reflux. Aqueous saturated sodium bicarbonate was added to the reaction liquid, and extracted with ethyl acetate. The organic layer was washed with water and saturated saline, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=7/1) to obtain the entitled compound as a yellow solid.

reactant | 3-bromo-4-fluoro-nitrobenzene | 2.1 g | BrC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3BrFNO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2-(2-fluoro-5-nitro-phenyl)-pyridine | FC1=C(C=C(C=C1)[N+](=O)[O-])C1=NC=CC=C1 | C11H7FN2O2
